### PR TITLE
feat: properties of Chebyshev polynomials over the reals

### PR DESCRIPTION
**Pull request by YuvalFilmus**
Added several properties of the Chebyshev polynomials:

- Degrees of T_n, U_n
- Leading coefficients of T_n, U_n
- Evaluations ofT_n, U_n at the endpoints ±1
- T_n is bounded on [-1, 1], and vice versa
- Zeroes of T_n and U_n, and extrema of T_n
- Normalized T_n minimizes the maximum absolute value over [-1, 1] for monic polynomials

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 1]
```diff
@@ -256,6 +327,92 @@ theorem U_eval_neg_one (n : ℤ) : (U R n).eval (-1) = n.negOnePow * (n + 1) :=
     norm_num
     ring
 
+@[simp]
+theorem U_degree_nat [Nontrivial R] [NoZeroDivisors R] (hR : ringChar R ≠ 2) (n : ℕ) :
```
Comment (plp127) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: This `hR` you have is usually stated as `[NeZero (2 : R)]` and is a typeclass argument (and then you can remove `[Nontrivial R]`). Also, I think `[IsCancelMulZero R]` is preferred over `[NoZeroDivisors R]`.

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,548 @@
...
+theorem T_bounded_of_bounded' (n : ℤ) {x : ℝ} (hx : |x| ≤ 1) :
+  |(T ℝ n).eval x| ≤ 1 := by
+  apply abs_le.mpr
+  rw [←Set.mem_Icc]
+  apply T_bounded_of_bounded n
+  rw [Set.mem_Icc]
+  exact abs_le.mp hx
+
+/-- Inverse of `arccos`. -/
+noncomputable def arccosh (x : ℝ) : ℝ := log (x + sqrt (x^2 - 1))
```
Comment (plp127) [inline Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]: Can you put this with `Real.arsinh`?

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 1 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Done.
Curiously enough, Nontrivial and NoZeroDivisors aren't derived automatically.

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean (hunk 2 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]: Added to Arsinh.lean.
In the future, it would be good to add more properties of arcosh.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: alternatively, you can assume `[IsDomain R]` (it's equivalent in this case since we already know `R` is nontrivial), this should give you both `Nontrivial R` and `NoZeroDivisors R` to be derived automatically.

Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Yes, that works.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 3]
```diff
@@ -159,6 +177,60 @@ theorem T_eval_neg_one (n : ℤ) : (T R n).eval (-1) = n.negOnePow := by
       Int.negOnePow_sub]
     ring
 
+@[simp]
+theorem T_degree [IsDomain R] [NeZero (2 : R)] (n : ℤ) :
+  (T R n).degree = n.natAbs := by
```
Comment (plp127) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Theorem statements after the first line are alway indented four spaces.
```suggestion
    (T R n).degree = n.natAbs := by
```

File: Mathlib/Analysis/SpecialFunctions/Arsinh.lean [hunk 4]
```diff
@@ -172,6 +180,21 @@ theorem contDiff_arsinh {n : ℕ∞} : ContDiff ℝ n arsinh :=
...
 
+/-- `arcosh` is defined using a logarithm, `arcosh x = log (x + sqrt(x^2 - 1))`. -/
+@[pp_nodot]
+def arcosh (x : ℝ) :=
+  log (x + √(x ^ 2 - 1))
+
+@[simp]
+theorem cosh_arcosh {x : ℝ} (hx : 1 ≤ x) : cosh (arcosh x) = x := by
+  unfold arcosh
+  have : 0 < x + sqrt (x^2 - 1) := by positivity
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Arsinh.lean]:
```suggestion
  have : 0 < x + sqrt (x ^ 2 - 1) := by positivity
```

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 5]
```diff
@@ -81,6 +82,24 @@ protected theorem induct (motive : ℤ → Prop)
   T.induct motive zero one add_two fun n hn hnm => by
     simpa only [Int.negSucc_eq, neg_add] using neg_add_one n hn hnm
 
+/-- Another induction principle, which is easier to use -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: If it's always easier to use, we should probably replace the original. Otherwise, perhaps qualify as "sometimes easier to use".

Also, please mention that this is an induction principle for Chebyshev polynomials, similar to the docstring for `induct`

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 6]
```diff
@@ -141,7 +159,6 @@ theorem T_eval_one (n : ℤ) : (T R n).eval 1 = 1 := by
   | add_two n ih1 ih2 => simp [T_add_two, ih1, ih2]; norm_num
   | neg_add_one n ih1 ih2 => simp [T_sub_one, -T_neg, ih1, ih2]; norm_num
 
-@[simp]
 theorem T_eval_neg_one (n : ℤ) : (T R n).eval (-1) = n.negOnePow := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:167]: Why?

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 7]
```diff
@@ -159,6 +176,58 @@ theorem T_eval_neg_one (n : ℤ) : (T R n).eval (-1) = n.negOnePow := by
...
     ring
 
+@[simp]
+theorem T_degree [IsDomain R] [NeZero (2 : R)] (n : ℤ) : (T R n).degree = n.natAbs := by
+  induction n using Chebyshev.induct' with
+  | zero => simp
+  | one => simp
+  | add_two n ih1 ih2 =>
+    have : (2 * X * T R (n+1)).degree = ↑(n + 2) := by
+      change (C 2 * X * T R (n+1)).degree = ↑(n + 2)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:191]: Please `rw` with the relevant lemma` instead of using `change`

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 8]
```diff
@@ -159,6 +176,58 @@ theorem T_eval_neg_one (n : ℤ) : (T R n).eval (-1) = n.negOnePow := by
       Int.negOnePow_sub]
     ring
 
+@[simp]
+theorem T_degree [IsDomain R] [NeZero (2 : R)] (n : ℤ) : (T R n).degree = n.natAbs := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: This should be named `degree_T`; similar below

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 9]
```diff
@@ -256,6 +324,89 @@ theorem U_eval_neg_one (n : ℤ) : (U R n).eval (-1) = n.negOnePow * (n + 1) :=
     norm_num
     ring
 
+@[simp]
+theorem U_degree_nat [IsDomain R] [NeZero (2 : R)] (n : ℕ) : (U R n).degree = n := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: `degree_U_natCast`

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 10]
```diff
@@ -256,6 +324,89 @@ theorem U_eval_neg_one (n : ℤ) : (U R n).eval (-1) = n.negOnePow * (n + 1) :=
...
+theorem U_natDegree_nat [IsDomain R] [NeZero (2 : R)] (n : ℕ) : (U R n).natDegree = n :=
+  natDegree_eq_of_degree_eq_some (U_degree_nat R n)
+
+theorem U_degree_neg_one : (U R (-1)).degree = ⊥ := by simp
+
+theorem U_natDegree_neg_one : (U R (-1)).natDegree = 0 := by simp
+
+theorem U_degree_ne_neg_one [IsDomain R] [NeZero (2 : R)] (n : ℤ) (hn : n ≠ -1) :
+    (U R n).degree = ↑((n + 1).natAbs - 1) := by
+  obtain ⟨m, hn⟩ := n.eq_nat_or_neg
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Could simplify the rest of the proof with
```suggestion
  obtain ⟨m, rfl | rfl⟩ := n.eq_nat_or_neg
```

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,524 @@
...
+import Mathlib.Analysis.SpecialFunctions.Log.Basic
+
+/-!
+# Chebyshev polynomials over the reals
+
+## Main statements
+
+* T_n(x) ∈ [-1, 1] iff x ∈ [-1, 1]
+* Zeroes of T and U
+* Extrema of T
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]: Add the names of the theorems

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,524 @@
...
+
+## TODO
+
+* Prove orthogonality with respect to appropriate inner product.
+* Prove more minimax properties of Chebyshev polynomials.
+-/
+
+namespace Polynomial
+
+theorem roots_of_zeroes_of_card
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]: This doesn't seem to belong in a file about Chebyshev polynomials, and what does "zeroes" refer to?

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,524 @@
...
+  {R : Type _} [CommRing R] [IsDomain R] {p : Polynomial R} {S : Finset R}
+  (hS : ∀ x ∈ S, p.eval x = 0) (hcard : S.card = p.degree) : p.roots = S.val := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]:
```suggestion
    {R : Type*} [CommRing R] [IsDomain R] {p : Polynomial R} {S : Finset R}
    (hS : ∀ x ∈ S, p.eval x = 0) (hcard : S.card = p.degree) : p.roots = S.val := by
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks for this!

A thousand lines is too much for a single PR. You should be able to easily split out all changes to existing files, at least, and edit the PR summary here to list the new PRs as "depends on" as shown in the hidden comment.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 6 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:167]: The linter complained.
The simplifier can already deduce it by combining `T_neg` and `T_eval_one`.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 7 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:191]: After spending 10 minutes, I wasn't able to find the right lemma.
I can change it to first proving `(C2 * X * T R (n+1)).degree = ↑(n + 2)` and then immediately deducing `(2 * X * T R (n+1)).degree = ↑(n + 2)` using `rfl`, but then what is the purpose of the `change` tactic?

File: Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean (hunk 12 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/ChebyshevReal/Basic.lean]: Moved (to Roots.lean) and renamed. Same goes for auxiliary results in Monic.lean.

**Comment by YuvalFilmus** [comment]
> Thanks for this!
> 
> A thousand lines is too much for a single PR. You should be able to easily split out all changes to existing files, at least, and edit the PR summary here to list the new PRs as "depends on" as shown in the hidden comment.

It would probably be a good idea to include this information in the guide to contributors (perhaps it's there and I missed it).

Also, I'm not sure my git skills are good enough for this, so a detailed guide explaining how to split your updates after the fact to several different interdependent commits would be appreciated.
